US09359352B2
Synthesis of 2-chloro-7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridine (C-10)
7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-9) (5.346 g, 16.3 mmol, 1.0 eq) was dissolved in POCl3 (100 mL) and the resulting mixture was stirred at reflux for 30 min. The reaction was complete based on TLC analysis. Then the mixture was cooled to RT and concentrated in vacuo to remove POCl3. The residue was poured into ice water (500 mL) and neutralized with saturated aqueous Na2CO3 solution to adjust the pH value to 8-9 while keeping the temperature below 0° C. The mixture was stirred at RT for 30 min. The residue was extracted with DCM (4×200 mL) and the combined organic layers were washed with brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (2-7% MeOH-DCM) to afford the desired product 2-chloro-7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridine (C-10) (1.9 g, 33.7% yield). ESI-MS m/z: 346.14 [M+H]+.

reactant | 7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridin-2(1H)-one | 16.3 mmol, 5.346 g, 1.0 eq | C(C)(C)N1CCN(CC1)C1CN(C1)C1=CN=C2C=CC(NC2=C1)=O | C18H25N5O
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-7-(3-(4-isopropylpiperazin-1-yl)azetidin-1-yl)-1,5-naphthyridine | 1.9 g, 33.7% yield | ClC1=NC2=CC(=CN=C2C=C1)N1CC(C1)N1CCN(CC1)C(C)C | C18H24ClN5
